US07138533B2
5-Chloro-1-[3-(methylsulfonyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl]-1-pentanone
Methylsulfonyl chloride (804 μl) was added to a solution of 5-chloro-1-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1-pentanone (2.4 g) obtained in Reference Example 121 and triethylamine (1.67 ml) in tetrahydrofuran (30 ml). After stirring at room temperature for 60 minutes, water (50 g) was added, extracted with ethyl acetate, and washed with brine. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure to give a pale yellow solid (2.2 g). Further recrystallization from ethanol-diethyl ether afforded the title compound as colorless crystals (1.92 g).

reactant | Methylsulfonyl chloride | 804 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-chloro-1-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1-pentanone | 2.4 g | ClCCCCC(=O)C1=CC2=C(CCNCC2)C=C1 | C15H20ClNO
reactant | triethylamine | 1.67 ml | C(C)N(CC)CC | C6H15N
reactant | water | 50 g | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-Chloro-1-[3-(methylsulfonyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl]-1-pentanone | 2.2 g | ClCCCCC(=O)C1=CC2=C(CCN(CC2)S(=O)(=O)C)C=C1 | C16H22ClNO3S
